US05457118
Ethyl 3-[3-(3-amino-1-propyl)-5-(3-pyridylmethyl)phenyl]propanoate
Sodium borohydride (2.30 g) was added portionwise with vigorous stirring to a solution of ethyl 3-(2-cyanoethenyl)-5-(3-pyridylmethyl)cinnamate (Preparation 19; 2.0 g) and cobalt(II) chloride hexahydrate (4.48 g) in ethanol (150 ml) at 0° C. The mixture was stirred for 2 hours, carefully acidified to pH 2 with concentrated hydrochloric acid, stirred for a further 10 minutes, basified with concentrated aqueous ammonia solution (SG 0.880) and then filtered. The filtered material was washed with ethyl acetate, the combined filtrate and washings washed with water, and the combined aqueous washings then extracted three times with dichloromethane. The organic extracts were combined, dried (MgSO4) and evaporated under vacuum to give a gum, which was chromatographed on silica gel. The column was eluted with a methanol in dichloromethane elution gradient (1% to 5% methanol), followed by a dichloromethane: methanol:aqueous ammonia (SG 0.880) elution gradient (94:5:1 to 90:9:1). The product fractions were combined and evaporated under vacuum to give the title compound as a gum (0.825 g); Rf 0.25 (SS 2); δ (CDCl3): 1.20(3H,t,J=7.1 Hz), 1.70-1.77(4H,m), 2.54-2.60(4H,m), 2.70(2H,t,J=7.0 Hz), 2.87(2H,t,J=7.8 Hz), 3.90(2H,s), 4.09(2H,q,J=7.1 Hz), 6.83(2H,s), 6.88(1H,s), 7.18-7.22(1H,m), 7.43-7.46(1H,m), 8.43-8.48(2H,m).

reactant | Sodium borohydride | 2.30 g | [BH4-].[Na+]
reactant | ethyl 3-(2-cyanoethenyl)-5-(3-pyridylmethyl)cinnamate | 2.0 g | C(#N)C=CC=1C=C(C=CC(=O)OCC)C=C(C1)CC=1C=NC=CC1 | C20H18N2O2
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | cobalt(II) chloride hexahydrate | 4.48 g | O.O.O.O.O.O.[Co](Cl)Cl
product | Ethyl 3-[3-(3-amino-1-propyl)-5-(3-pyridylmethyl)phenyl]propanoate | 0.825 g | NCCCC=1C=C(C=C(C1)CC=1C=NC=CC1)CCC(=O)OCC | C20H26N2O2
